Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6],4.81180194802
[O:1]([C:2]=[C:5]([H:3])[H:4])[H:7].[O:6]=[C:8]([H:9])[H:10]>>[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-1.4236079085799995
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][O:8][H:9]>>[C:4]([H:5])#[C:6][C:7][O:8][H:9].[O:1]=[C:2][H:3],3.50671485686
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]#[C:10][H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:10]([H:11])[H:12],-2.48429718541
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.72358600257
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:10]([H:11])[H:12],2.49366424104
[H:1][C:2]1=[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9][C:10]1([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]=[C:10]([H:11])[H:12],-1.73333370086
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.31931288384
[C:2]([H:3])([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11],-2.5622229036400004
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8][H:9],4.6118272966900005
[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7][C:9]1([H:10])[H:11].[H:8]>>[H:1][C:2][C:3]1=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]1([H:10])[H:11],-4.2778022117
[H:1][O:2][C:3][C:4]1=[C:5]([C:6]([H:7])[H:8])[O:9]1>>[H:1][O:2][C:3]#[C:4][C:5]([C:6]([H:7])[H:8])=[O:9],-1.41839845679
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])([C:4]([H:5])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18])[H:11],4.33939125582
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:7][O:8][H:9].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.19127877
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:15]([H:16])[H:17],1.7413351391799998
[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.80680624258
[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.77382363843
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9].[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-4.11164880372
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.79310485175
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:10][H:11].[H:9],3.79860089782
[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],1.5393807273
[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.68198796495
[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.21881775519
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3],5.13027452634
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.7069932748
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],0.7107202875
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1],5.97760192393
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:7][O:8][C:9]([H:10])[H:11].[H:6],2.74625392417
